US08202876B2
The mixture of N-{3-[2-(6-Methanesulfinyl-pyrimidin-4-yl)-5-methyl-2H-pyrazol-3-ylamino]-4-methyl-phenyl}-3-trifluoromethyl-benzamide (20 mg, 0.04 mmol) and 2-Morpholin-4-yl-ethylamine (100 uL) in 2-propanol is heated to 80° C. for 3 hours. The reaction mixture is cooled to room temperature and condensed. The crude product is then treated with 1 mL DMSO and purified by LC/MS to afford N-(4-Methyl-3-{5-methyl-2-[6-(2-morpholin-4-yl-ethylamino)-pyrimidin-4-yl]-2H-pyrazol-3-ylamino}-phenyl)-3-trifluoromethyl-benzamide.

reactant | N-{3-[2-(6-Methanesulfinyl-pyrimidin-4-yl)-5-methyl-2H-pyrazol-3-ylamino]-4-methyl-phenyl}-3-trifluoromethyl-benzamide | 0.04 mmol, 20 mg | CS(=O)C1=CC(=NC=N1)N1N=C(C=C1NC=1C=C(C=CC1C)NC(C1=CC(=CC=C1)C(F)(F)F)=O)C | C24H21F3N6O2S
reactant | 2-Morpholin-4-yl-ethylamine | 100 uL | N1(CCOCC1)CCN | C6H14N2O
reactant | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | 2-propanol | CC(C)O | C3H8O
product | N-(4-Methyl-3-{5-methyl-2-[6-(2-morpholin-4-yl-ethylamino)-pyrimidin-4-yl]-2H-pyrazol-3-ylamino}-phenyl)-3-trifluoromethyl-benzamide | CC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)C(F)(F)F)=O)NC=1N(N=C(C1)C)C1=NC=NC(=C1)NCCN1CCOCC1 | C29H31F3N8O2
